US08686158B2
N,N-dimethyl(naphthalene-1-yl)methanamine (1)
To 1-naphthaldehyde (1.50 g, 9.62 mmol, 1.00 equiv) in 40 mL THF is added NaOAc (0.79 g, 9.62 mmol, 1.00 equiv), Me2NH.HCl (863 mg, 10.6 mmol, 1.10 equiv), and AcOH (0.11 mL, 1.9 mmol, 0.20 equiv) at 23° C. NaBH(OAc)3 (4.08 g, 19.3 mmol, 2.00 equiv) is added in three portions over five minutes. The suspension is stirred for 12 hours before solvent is removed in vacuo. To the residue is added 10 mL sat. NaHCO3(aq) and 10 mL CH2Cl2. The phases are separated and the aqueous phase is extracted with CH2Cl2 (3×10 mL). The combined organic phase is concentrated in vacuo. The residue is purified by chromatography on silica gel eluting with hexanes/EtOAc 3:2 (v/v) to afford 1.64 g of the title compound as a colorless liquid (92% yield).

reactant | 1-naphthaldehyde | 9.62 mmol, 1.50 g, 1.00 equiv | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | NaOAc | 9.62 mmol, 0.79 g, 1.00 equiv | CC(=O)[O-].[Na+]
reactant | Me2NH.HCl | 10.6 mmol, 863 mg, 1.10 equiv | N(C)C.Cl
reactant | AcOH | 1.9 mmol, 0.11 mL, 0.20 equiv | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 19.3 mmol, 4.08 g, 2.00 equiv | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N,N-dimethyl(naphthalene-1-yl)methanamine | 1.64 g, 92% yield | CN(CC1=CC=CC2=CC=CC=C12)C | C13H15N
